data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_660297_1,[C:1]1([H:11])=[C:4]([H:12])[C:3]([O:8][H:9])=[C:5]([H:13])[C:6]([H:14])([H:15])[O:7][N:2]1[H:10]>>[C:1]1(/[C:4](=[C:3](\[C:5](=[C:6]([H:14])[H:15])[H:13])[O:8][H:9])[H:12])([H:11])[N:2]([H:10])[O:7]1,48.175685000000215
MR_239774_1,[C:1]1([O:5][H:8])([H:10])[C:2](/[C:3](=[N:7]\[H:11])[H:12])([O:6][H:9])[C:4]1([H:13])[H:14]>>[C:1]([C:2](/[C:3](=[N:7]\[H:11])[H:12])=[C:4]([H:13])[H:14])([O:5][H:8])([O:6][H:9])[H:10],64.16877749999912
MR_633680_1,[C:1]([C:2]([C:7]([C:3]([C:5]([H:22])([H:23])[H:24])([H:15])[H:16])=[C:8]([H:20])[H:21])([H:13])[H:14])([C:4]([H:17])([H:18])[H:19])([O:9][N:6]([H:11])[H:12])[H:10]>>[C:1]1([C:4]([H:17])([H:18])[H:19])([H:10])[C:2]([H:13])([H:14])[C:7]1([C:3]([C:5]([H:22])([H:23])[H:24])([H:15])[H:16])[C:8]([O:9][N:6]([H:11])[H:12])([H:20])[H:21],69.15677499996121
MR_318441_1,[C@:1]([C:2]([H:13])([H:14])[H:15])([C:4]([N:6]([H:11])[H:12])=[O:8])([C:5]([C:3]([H:16])([H:17])[H:18])=[O:9])[O:7][H:10]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:4](/[N:6]([H:11])[H:12])[O:8][C:5]([C:3]([H:16])([H:17])[H:18])=[O:9])[O:7][H:10],60.07935999997983
MR_627893_0,[C:1]([N:2]([H:10])[H:11])([O:3][O:5][H:7])([O:4][O:6][H:8])[H:9]>>[C@:1]([N:2]([H:10])[H:11])([O:3][O:4][O:6][H:8])([O:5][H:7])[H:9],43.931275000015546
MR_503811_1,[C:1](=[C:3]([C:4]1([H:10])[O:6][N:8]1[C:5]([C:2]([H:15])([H:16])[H:17])([H:11])[H:14])[O:7][H:9])([H:12])[H:13]>>[C:1](/[C:3](=[C:4](\[O:6]/[N:8]=[C:5](\[C:2]([H:15])([H:16])[H:17])[H:11])[H:10])[O:7][H:9])([H:12])([H:13])[H:14],35.72608500000783
MR_510801_1,[C:1]([N:4]([C:2]([H:13])([H:15])[H:16])[C:3]([H:14])([H:17])[H:18])([N:6]([H:11])[H:12])([O:7][N:5]([H:9])[H:10])[H:8]>>[C:1]([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])([O:7][N:4]([C:2]([H:13])([H:15])[H:16])[C:3]([H:14])([H:17])[H:18])[H:8],69.62175249996434
MR_399003_1,[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([C:4]([N:5]([H:11])[H:12])=[O:8])[H:9])([N:6]=[O:7])[H:10]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([H:10])[N:3]([H:9])[C:4]1([N:5]([H:11])[H:12])[O:8][N:6]=[O:7],71.96672000000063
MR_503873_1,[C:1]([C:4](=[C:5]([C:2]([H:16])([H:17])[H:21])[C:3]([H:18])([H:19])[H:20])[N:8]([H:14])[H:15])([N:6]([H:11])[H:12])([N:7]([H:10])[H:13])[H:9]>>[C@:1]1([N:7]([H:10])[H:13])([H:9])[C:4]([N:6]([H:11])[H:12])([N:8]([H:14])[H:15])[C:5]1([C:2]([H:16])([H:17])[H:21])[C:3]([H:18])([H:19])[H:20],71.52307750001498
MR_112694_0,[C:1]1([C:3]([H:13])([H:14])[H:15])([H:9])[C:2]([H:10])([H:11])[C:5]1([C:4](=[O:6])[O:7][H:8])[H:12]>>[C:1]1([C:3]([H:13])([H:14])[H:15])([H:9])[C:2]([H:10])([H:11])[C:5]([H:12])=[C:4]([O:7][H:8])[O:6]1,55.61783500000829
MR_705674_0,[C:1]([C:2]([H:17])([H:18])[H:19])([C:5]1([N:3]([N:6]([H:10])[H:11])[H:9])/[C:4](=[N:8]/[H:12])[C:7]1([H:15])[H:16])([H:13])[H:14]>>[C:1]([C:2]([H:17])([H:18])[H:19])([C:5](/[C:4]([N:3]([N:6]([H:10])[H:11])[H:9])=[N:8]\[H:12])=[C:7]([H:15])[H:16])([H:13])[H:14],63.08383000002749
MR_540320_0,[C:1](\[C:2]([C:3]([H:10])([H:16])[H:17])([H:14])[H:15])(=[C:4](\[C:6](=[O:8])[H:13])[O:7][H:9])[N:5]([H:11])[H:12]>>[C:1]1(/[C:4](=[C:6](\[O:8][H:10])[H:13])[O:7][H:9])([N:5]([H:11])[H:12])[C:2]([H:14])([H:15])[C:3]1([H:16])[H:17],65.50974500000208
MR_650139_0,[C:1](/[N:3]=[C:4](/[N:5]([H:9])[H:10])[C:7]([C:2]([H:16])([H:17])[H:18])([C:6](=[C:8]([H:19])[H:20])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:3](/[C:4]([N:5]([H:9])[H:10])=[C:7](/[C:2]([H:16])([H:17])[H:18])[H:12])[C:6](=[C:8]([H:19])[H:20])[H:11])([H:13])([H:14])[H:15],63.02359000000124
MR_156429_1,[C:1]([C:2]([H:16])([H:17])[H:18])([N:3]([C:4]([N:6]([H:12])[H:13])=[O:8])[N:5]([H:10])[H:11])([N:7]([H:14])[H:15])[H:9]>>[C@@:1]([C:2]([H:16])([H:17])[H:18])([N:7]([H:14])[H:15])([O:8]/[C:4](=[N:3]\[N:5]([H:10])[H:11])[N:6]([H:12])[H:13])[H:9],46.11748500002463
MR_294862_1,[C:1]([C:2]([C:5]([C:3]([N:4]([H:14])[H:15])=[O:8])([O:9][H:10])[H:16])([O:7][H:11])[H:13])(=[O:6])[H:12]>>[C:1]([C:2]([C:5](=[O:9])[H:16])([O:7][H:11])[H:13])([C:3]([N:4]([H:14])[H:15])=[O:8])([O:6][H:10])[H:12],61.13230499996092
MR_605216_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([O:4][O:5][O:7][H:9])[O:6][O:8][H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([O:4][O:6][O:8][H:10])[O:5][O:7][H:9],55.01292500000176
MR_111190_1,[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[H:6])([N:4]([H:9])[H:10])([N:5]([H:8])[H:11])[H:7]>>[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[N:4]([H:9])[H:10])([N:5]([H:8])[H:11])([H:6])[H:7],66.27780499998906
MR_167302_1,[C@@:1](/[C:3]([N:6]([H:13])[H:14])=[N:8]\[C:2]([H:18])([H:19])[H:20])(/[C:4]([N:7]([H:15])[H:16])=[N:9]\[H:17])([N:5]([H:11])[H:12])[H:10]>>[C:1](=[C:3](\[N:6]([H:13])[H:14])[N:8]([C:2]([H:18])([H:19])[H:20])/[C:4]([N:7]([H:15])[H:16])=[N:9]\[H:17])(\[N:5]([H:11])[H:12])[H:10],63.949152500018585
MR_172123_0,[C:1](/[C:3](=[C:5](/[N:4]([H:10])[H:11])[H:12])[O:6][C:2]([O:7][H:9])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:3]1([C:5]([N:4]([H:10])[H:11])([O:7][H:9])[H:12])[C:2](=[O:8])[O:6]1)([H:13])([H:14])[H:15],59.288082499980135
